US07842713B2
4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(1-methyl-1H-pyrazol-3-yl)benzo[b]thiophene-6-carboxamide
Cs2CO3 (0.806 g, 2.47 mmol) was added to a solution of ethyl 4-hydroxy-2-methylbenzo[b]thiophene-6-carboxylate (0.275 g, 1.16 mmol) and 2,4-difluoro-N,N-dimethylbenzamide (0.269 g, 1.45 mmol) in DMF (5 mL). The mixture was stirred at 150° C. for 8 hours and then cooled to room temperature. 1-Methyl-1H-pyrazol-3-amine (0.19 g, 1.98 mmol) and HATU (0.664 g, 1.75 mmol) were added. The reaction mixture was stirred at 80° C. for one hour and then filtered. Purification by HPLC gave a solid (100 mg, 19% yield) as expected product. 1H NMR (400 MHz, CD3OD) δ 8.27 (s, 1 H) 7.54 (m, 1 H) 7.48 (m, 1 H) 7.34-7.38 (t, 1 H) 7.00 (s, 1 H) 6.82-6.89 (m, 2 H) 6.59-6.60 (m, 1 H) 3.81 (s, 3 H) 3.09 (s, 3 H) 2.97 (m, 3 H) 2.58 (m, 3 H). LCMS for C23H21FN4O3S m/z 453.10 (M+H)+.

reactant | Cs2CO3 | 2.47 mmol, 0.806 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl 4-hydroxy-2-methylbenzo[b]thiophene-6-carboxylate | 1.16 mmol, 0.275 g | OC1=CC(=CC=2SC(=CC21)C)C(=O)OCC | C12H12O3S
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.45 mmol, 0.269 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 1-Methyl-1H-pyrazol-3-amine | 1.98 mmol, 0.19 g | CN1N=C(C=C1)N | C4H7N3
reactant | HATU | 1.75 mmol, 0.664 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(1-methyl-1H-pyrazol-3-yl)benzo[b]thiophene-6-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC=3SC(=CC32)C)C(=O)NC3=NN(C=C3)C)C=C1)F)C | C23H21FN4O3S
